US05385922
4-Carboxy-N-(2,2-dimethyl-3-nitroxypropionyl)-2-phenylthiazolidine
A solution of 5.2 g of 2,2-dimethyl-3-nitroxypropanoyl chloride in 100 ml of tetrahydrofuran was added at 0° C. under nitrogen to a solution of 6.0 g of 4-carboxy-2-phenylthiazolidine and 4.0 g of potassium carbonate in a mixture of 50 ml of tetrahydrofuran and 150 ml of water. After stirring the resulting solution for 45 minutes the mixture was concentrated under reduced pressure to about 150 ml and then acidified to pH=2 with citric acid. The resulting mixture was extracted with diethyl ether and the organic phase was dried over sodium sulphate and evaporated. The residue was purified by chromatography (silica, petroleum ether 60-80: ethyl acetate: acetic acid/8:8:1). Yield 38%. Empirical formula C15H18N2O6S. Molecular weight 354. Melting point 35°-38° C. TLC system: petroleum ether 60-80: ethyl acetate: acetic acid/4:4:1. Rf 0.50.

reactant | 2,2-dimethyl-3-nitroxypropanoyl chloride | 5.2 g | CC(C(=O)Cl)(CO[N+](=O)[O-])C | C5H8ClNO4
reactant | 4-carboxy-2-phenylthiazolidine | 6.0 g | C(=O)(O)C1NC(SC1)C1=CC=CC=C1 | C10H11NO2S
reactant | potassium carbonate | 4.0 g | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | water | 150 ml | O | H2O
product | 4-Carboxy-N-(2,2-dimethyl-3-nitroxypropionyl)-2-phenylthiazolidine | Yield 38% | C(=O)(O)C1N(C(SC1)C1=CC=CC=C1)C(C(CO[N+](=O)[O-])(C)C)=O | C15H18N2O6S
